US06703392B2
2-[1-(Naphthalen-2-yl-methyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide:
prepared by reaction of 1-(Naphthalen-2-yl-methyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 1-amino-indane

reactant | 1-(Naphthalen-2-yl-methyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | C1=C(C=CC2=CC=CC=C12)CC1NCCC2=CC(=C(C=C12)OC)OC | C22H23NO2
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 1-amino-indane | NC1CCC2=CC=CC=C12 | C9H11N
product | 2-[1-(Naphthalen-2-yl-methyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide | C1=C(C=CC2=CC=CC=C12)CC1N(CCC2=CC(=C(C=C12)OC)OC)CC(=O)NC1CCC2=CC=CC=C12 | C33H34N2O3
